US06342765B1
A mixture of 2-(4-fluorophenethyl)-5-[2-(1-methylimidazol-5-yl)-1-(thiazol-2-yl)ethoxy]benzoic acid (0.74 g, 1.63 mmol), DMAP (1.0 g, 8.2 mmol), L-methionine tert-butyl ester HCl (1.0 g, 4.92 mmol), EDC (0.63 g, 3.27 mmol) and HOBT (0.22 g, 1.63 mmol) in DMF (50 ml) was stirred at ambient temperature under a nitrogen atmosphere for 16 hours. The reaction was evaporated to dryness and washed with aqueous citric acid (1M, 20 ml) and extracted with dichloromethane (20 ml). The extracts were washed with saturated brine and dried and applied directly onto a silica flash column which was eluted with ethyl acetate/methanol (9:1 and 4:1) to give tert-butyl (2S)-2- {2-(4-fluorophenethyl)-5-[1-(thiazol-2-yl)-2-(1-methylimidazol-5-yl)ethoxy]benzoylamino}-4-methylsulfanylbutyrate. The product was dissolved in ethyl acetate and treated with 1M ethereal HCl (10 ml). The resulting solid was isolated by centrifuging, flirther washing with diethyl ether and finally drying under high vacuum to give tert-butyl (2S)-2-{2-(4-fluorophenethyl)-5-[1-(thiazol-2-yl)-2-(1-methylimidazol-5-yl)ethoxy]benzoylamino}-4-methylsulfanylbutyrate as a white solid, (0.57 g, 54% Yield).

reactant | 2-(4-fluorophenethyl)-5-[2-(1-methylimidazol-5-yl)-1-(thiazol-2-yl)ethoxy]benzoic acid | 1.63 mmol, 0.74 g | FC1=CC=C(CCC2=C(C(=O)O)C=C(C=C2)OC(CC2=CN=CN2C)C=2SC=CN2)C=C1 | C24H22FN3O3S
reactant | L-methionine tert-butyl ester HCl | 4.92 mmol, 1.0 g | Cl.C(C)(C)(C)OC([C@@H](N)CCSC)=O
reactant | EDC | 3.27 mmol, 0.63 g
reactant | HOBT | 1.63 mmol, 0.22 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
catalyst | DMAP | 8.2 mmol, 1.0 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | tert-butyl (2S)-2- {2-(4-fluorophenethyl)-5-[1-(thiazol-2-yl)-2-(1-methylimidazol-5-yl)ethoxy]benzoylamino}-4-methylsulfanylbutyrate | FC1=CC=C(CCC2=C(C(=O)N[C@H](C(=O)OC(C)(C)C)CCSC)C=C(C=C2)OC(CC2=CN=CN2C)C=2SC=CN2)C=C1 | C33H39FN4O4S2
